US09302989B2
1,3-dihydro-isoindole-2-carboxylicacid[4-(4-oxo-3,4,5,6,7,8-hexahydro-phthalazin-1-yl)-phenyl]-amide
To a solution of 200 mg 4-(4-aminophenyl)-5,6,7,8-tetrahydro-2H-phthalazin-1-one (0.829 mmol) in 5 ml N,N-dimethylformamide were added 245 mg carbonic acid bis-(2,5-dioxo-pyrrolidin-1-yl) ester (0.912 mmol) and the reaction mixture was stirred overnight. 255 mg of isoindoline were added, the precipitation formed was dissolved by adding 0.8 ml N,N-dimethylformamide, and the reaction mixture was stirred overnight. Water was added, and the formed precipitation was washed with water/methanol and subsequently dried in vacuum to obtain the crude material. The crude material was refluxed in 20 ml ethanol for 2 hours, cooled to room temperature, filtered and dried to obtain the desired product. ESI-MS [M+H+]=387.2.

reactant | 4-(4-aminophenyl)-5,6,7,8-tetrahydro-2H-phthalazin-1-one | 0.829 mmol, 200 mg | NC1=CC=C(C=C1)C1=NNC(C=2CCCCC12)=O | C14H15N3O
reactant | carbonic acid bis-(2,5-dioxo-pyrrolidin-1-yl) ester | 0.912 mmol, 245 mg | O=C1N(C(CC1)=O)OC(ON1C(CCC1=O)=O)=O | C9H8N2O7
reactant | isoindoline | 255 mg | C1NCC2=CC=CC=C12 | C8H9N
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 0.8 ml | CN(C=O)C | C3H7NO
product | 1,3-dihydro-isoindole-2-carboxylicacid[4-(4-oxo-3,4,5,6,7,8-hexahydro-phthalazin-1-yl)-phenyl]-amide | O=C1NN=C(C=2CCCCC12)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C23H22N4O2
